US08420828B2
Tert-butyl 5-(2-(2,3-difluorophenyl)-4-hydroxy-3-methyl-5-oxo-2H-pyrrol-1(5H)-yl)-1H-benzo[d]imidazole-1-carboxylate
1-(1H-Benzo[d]imidazol-5-yl)-5-(2,3-difluorophenyl)-3-hydroxy-4-methyl-1H-pyrrol-2-(5H)-one hydrochlorid (4.77 g, 12.6 mmol, 1 eq.) was suspended in THF (150 ml). Triethylamine (1.94 ml, 13.9 mmol, 1.1 eq.) and Boc2O (2.97 ml, 13.9 mmol, 1.1 eq.) were added and the mixture was heated to reflux over night. The solvent was evaporated and the residue was purified by flash chromatography on silica using a CHCl3/MeOH gradient.

reactant | 1-(1H-Benzo[d]imidazol-5-yl)-5-(2,3-difluorophenyl)-3-hydroxy-4-methyl-1H-pyrrol-2-(5H)-one hydrochlorid | 12.6 mmol, 4.77 g, 1 eq. | Cl.N1C=NC2=C1C=CC(=C2)N2C(C(=C(C2C2=C(C(=CC=C2)F)F)C)O)=O
reactant | Triethylamine | 13.9 mmol, 1.94 ml, 1.1 eq. | C(C)N(CC)CC | C6H15N
reactant | Boc2O | 13.9 mmol, 2.97 ml, 1.1 eq. | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 150 ml | C1CCOC1 | C4H8O
product | Tert-butyl 5-(2-(2,3-difluorophenyl)-4-hydroxy-3-methyl-5-oxo-2H-pyrrol-1(5H)-yl)-1H-benzo[d]imidazole-1-carboxylate | FC1=C(C=CC=C1F)C1N(C(C(=C1C)O)=O)C1=CC2=C(N(C=N2)C(=O)OC(C)(C)C)C=C1 | C23H21F2N3O4
